US04032525
4.0 G. of 4-[10,11-dihydro-3-methoxy-8-methyl-dibenz[b,f]oxepin-10 -yl]-1-methyl-piperazine are dissolved in 600 ml. of methylene chloride, treated with a solution of 8.9 g. of boron tribromide in 90 ml. of methylene chloride and stirred at room temperature for 20 hours. The residue is taken up in 150 ml. of methanol, boiled at reflux for 30 minutes with active carbon, filtered, concentrated to about 70 ml., treated with ether until turbidity sets in, and there is obtained crystalline 10,11-dihydro-8-methyl-10-(4-methyl-1-piperazinyl)-dibenz[b,f] oxepin-3-ol dihydrobromide having a melting point of 176° C. (with decomposition).

reactant | 4-[10,11-dihydro-3-methoxy-8-methyl-dibenz[b,f]oxepin-10 -yl]-1-methyl-piperazine | COC=1C=CC2=C(OC3=C(C(C2)N2CCN(CC2)C)C=C(C=C3)C)C1 | C21H26N2O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methanol | CO | CH4O
product | 10,11-dihydro-8-methyl-10-(4-methyl-1-piperazinyl)-dibenz[b,f] oxepin-3-ol dihydrobromide | Br.Br.CC=1C=CC2=C(C(CC3=C(O2)C=C(C=C3)O)N3CCN(CC3)C)C1 | InChI=1S/C20H24N2O2.2BrH/c1-14-3-6-19-17(11-14)18(22-9-7-21(2)8-10-22)12-15-4-5-16(23)13-20(15)24-19;;/h3-6,11,13,18,23H,7-10,12H2,1-2H3;2*1H
